US08242313B2
[1-(3-Chloropyridin-2-yl)-5-hydroxy-5-(trichloromethyl)-4,5-dihydro-1H-pyrazol-3-yl]methyl acetate
27.5 g (0.1 mol) of 5,5,5-trichloro-2-methoxy-4-oxopent-2-en-1-yl acetate and 14.4 g (0.1 mol) of 3-chloro-2-hydrazinopyridine were initially charged in 200 ml of ethanol, and the mixture was stirred at 25° c. for 3 h. The precipitate was filtered off and washed with cyclohexane.

reactant | 5,5,5-trichloro-2-methoxy-4-oxopent-2-en-1-yl acetate | 0.1 mol, 27.5 g | C(C)(=O)OCC(=CC(C(Cl)(Cl)Cl)=O)OC | C8H9Cl3O4
reactant | 3-chloro-2-hydrazinopyridine | 0.1 mol, 14.4 g | ClC=1C(=NC=CC1)NN | C5H6ClN3
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | [1-(3-Chloropyridin-2-yl)-5-hydroxy-5-(trichloromethyl)-4,5-dihydro-1H-pyrazol-3-yl]methyl acetate | C(C)(=O)OCC1=NN(C(C1)(C(Cl)(Cl)Cl)O)C1=NC=CC=C1Cl | C12H11Cl4N3O3
